US06265575B1
Part B. 3-Bromo-4-hydroxyphenyl 2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl Ketone
A 0° C. solution of 6.5 g (14.3 mmol) of 3-bromo-4-methoxyphenyl 2-(4-methoxyphenyl)benzo[b]thiophen-3-yl ketone in 300 mL of dichloromethane was treated with 15.3 g (115 mmol) of AlCl3, followed by 17 mL (230 mmol) of ethanethiol. The cold bath was removed and the reaction was stirred at ambient temperature for 3.5 h. The reaction mixture was cooled to 0° C. and poured into cold water. The layers were separated and the aqueous layer was extracted with EtOAc (2×150 mL). The combined organic layers were dried over Na2SO4 and evaporated to give 5.9 g (13.9 mmol, 97%) of an oil which crystallized out when mixed with CH2Cl2.

reactant | 3-bromo-4-methoxyphenyl 2-(4-methoxyphenyl)benzo[b]thiophen-3-yl ketone | 14.3 mmol, 6.5 g | COC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC(=C(C=C2)OC)Br | C23H17BrO3S
reactant | AlCl3 | 115 mmol, 15.3 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | ethanethiol | 230 mmol, 17 mL | C(C)S | C2H6S
solvent | dichloromethane | 300 mL | ClCCl | CH2Cl2
product | 3-Bromo-4-hydroxyphenyl 2-(4-Hydroxyphenyl)benzo[b]thiophen-3-yl Ketone | 13.9 mmol, 5.9 g, 97% | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)C(=O)C2=CC(=C(C=C2)O)Br | C21H13BrO3S
